US04994486
Step 1:1-Cyano-5-methoxy-3-phenyl-3,4-dihydronaphthalene
To a suspension of 8.8 g (35 mmol) of 5-methoxy-3-phenyl-1,2,3,4-tetrahydro-1-naphthalenone, the product of Example 1, is added 7.5 g (75.6 mmol) of trimethylsilyl cyanide (commercially available from Aldrich Chemical Company) and approximately 50 mg of anhydrous aluminum chloride (AlCl3). The reaction mixture is heated at 60° C. for 3 h then cooled to ambient temperature and diluted with 150 mL of toluene. The volume of the reaction mixture is reduced in vacuo to approximately 50 mL. The resultant trimethylsilyl adduct is dehydrated by treatment with 15 mL of trifluroacetic acid and 100 mg of p-toluenesulfonic acid in 200 mL of toluene at reflux temperature for 1 h. The reaction mixture is cooled to ambient temperature, the layers separated and the organic layer washed with water, aqueous sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give the title compound.

reactant | 5-methoxy-3-phenyl-1,2,3,4-tetrahydro-1-naphthalenone | 35 mmol, 8.8 g | COC1=C2CC(CC(C2=CC=C1)=O)C1=CC=CC=C1 | C17H16O2
reactant | trimethylsilyl cyanide | 75.6 mmol, 7.5 g | C[Si](C)(C)C#N | C4H9NSi
reactant | aluminum chloride | approximately 50 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | trifluroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Cyano-5-methoxy-3-phenyl-3,4-dihydronaphthalene | C(#N)C1=CC(CC2=C(C=CC=C12)OC)C1=CC=CC=C1 | C18H15NO
